US05302370
2-Methyl-2-(4-nitrobenzyl)-malonic acid dimethyl ester [1]
11.5 g (0.5 mol) of sodium in a stream of nitrogen was placed in a dry 1000 ml three-necked flask with a reflux condenser, a drying tube and a dropping funnel with pressure compensation. Next, 350 ml of methanol was carefully added dropwise and agitated until the sodium had completely dissolved. A methanolic solution of 87 g (0.5 mol) methylmalonic acid diethyl ester was added very slowly dropwise to the sodium methanolate solution, which was still warm. At the end of the addition, the mixture was stirred for a further 30 minutes, after which 4-nitrobenzyl bromide was added in portions, using a powder funnel. After everything had dissolved, the mixture was first reflux-heated for two hours and then agitated at room temperature overnight. The solvent was removed in a rotary evaporator and water was added to the residue, which was repeatedly extracted with ethyl acetate (250 ml portions). The combined organic extracts were washed with saturated common salt solution and dried over sodium sulphate. After removing the solvent, faintly yellow crystals were left. Recrystallisation was from dimethyl formamide (DMF) and water.

reactant | sodium | 0.5 mol, 11.5 g | [Na] | Na
reactant | methylmalonic acid diethyl ester | 0.5 mol, 87 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | sodium methanolate | C[O-].[Na+]
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | methanol | 350 ml | CO | CH4O
product | 2-Methyl-2-(4-nitrobenzyl)-malonic acid dimethyl ester | COC(C(C(=O)OC)(CC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C13H15NO6
